US04914112
After 60% sodium hydride (6.5 g, 0.163 mmol) was suspended in tetrahydrofuran under nitrogen atmosphere, the mixture was refluxed for 0.5 h, then added dropwise acetonitrile (7.6 g, 0.185 mol) and ethyl-2-(2-fluoro-4-biphenylyl)-propionate described above in tetrahydrofuran (100 ml). After refluxed for 2 h, the mixture was cooled at room temperature and added isopropylalcohol. After stirring for a while, the mixture was evaporated under reduced pressure to a residue, which was made acid with 2N hydrochloric acid and extracted with chloroform. The extracts were washed with water, dried over, and evaporated under reduced pressure to a residue, which was chromatographed and recrystallized with ethanol to afford 4-(2-fluoro-4-biphenylyl)-3-oxo-pentanenitril (18.0 g, 55% yiled) as pale yellow crystalline material: mp 84°-85° C.

reactant | sodium hydride | 0.163 mmol, 6.5 g | [H-].[Na+]
reactant | acetonitrile | 0.185 mol, 7.6 g | C(C)#N | C2H3N
reactant | ethyl-2-(2-fluoro-4-biphenylyl)-propionate | C(C)OC(C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C17H17FO2
reactant | isopropylalcohol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(2-fluoro-4-biphenylyl)-3-oxo-pentanenitril | 18.0 g, 55% | FC1=C(C=CC(=C1)C(C(CC#N)=O)C)C1=CC=CC=C1 | C17H14FNO
